US06251905B1
iv) Synthesis of 4,5-dihydro-2-methyl-4-(4-trifluoromethanesulfonamidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one.hydrochloride
234 mg (0.6 mmol) of 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one was dissolved in a mixture solvent consisting of 2 ml of ethanol and 0.05 ml of 12N HCl. The solvent was distilled off under reduced pressure to leave 256 mg of the desired compound (100%, pale yellow solid substance).

reactant | 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 0.6 mmol, 234 mg | CC=1N=C2C=CC=C3CN(C(C1N23)=O)CCCCNS(=O)(=O)C(F)(F)F | C15H17F3N4O3S
reactant | HCl | 12N, 0.05 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4,5-dihydro-2-methyl-4-(4-trifluoromethanesulfonamidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one.hydrochloride | 256 mg, 100% | Cl.CC=1N=C2C=CC=C3CN(C(C1N23)=O)CCCCNS(=O)(=O)C(F)(F)F | InChI=1S/C15H17F3N4O3S.ClH/c1-10-13-14(23)21(9-11-5-4-6-12(20-10)22(11)13)8-3-2-7-19-26(24,25)15(16,17)18;/h4-6,19H,2-3,7-9H2,1H3;1H
